US08022214B2
To a solution of tin chloride (25.4 g, 134 mmol) in concentrated hydrochloric acid (HCl, 210 mL) was added dropwise a solution of 9-nitroanthracene (10.0 g, 44.8 mmol) in acetic acid (420 mL), and the mixture was heated to reflux for 1 hour. The mixture was cooled to room temperature and filtered. The residue was treated with an aqueous solution of sodium hydroxide (NaOH, 1 N, 300 mL) and extracted with dichloromethane (CH2Cl2). The organic layer was dried over magnesium sulfate (MgSO4) and concentrated to give anthracen-9-yl-amine as brown crystals (6.41 g, 74% yield). 1H NMR (CDCl3) δ 8.00-7.95 (4H, m), 7.91 (1H, s), 7.47-7.42 (4H, m), 4.89 (2H, br-s).

reactant | tin chloride | 134 mmol, 25.4 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | 9-nitroanthracene | 44.8 mmol, 10.0 g | [N+](=O)([O-])C=1C2=CC=CC=C2C=C2C=CC=CC12 | C14H9NO2
solvent | hydrochloric acid | 210 mL | Cl | ClH
solvent | acetic acid | 420 mL | C(C)(=O)O | C2H4O2
product | anthracen-9-yl-amine | 6.41 g, 74% yield | C1=CC=CC2=CC3=CC=CC=C3C(=C12)N | C14H11N
